US08431563B2
To a 100-mL round-bottomed flask was added 3-methoxybenzyl bromide (0.73 mL, 5.22 mmol, Sigma-Aldrich, St. Louis, Mo.), ethyl N-(diphenylmethylene)glycinate (1.40 g, 5.22 mmol, Acros, Pittsburgh, Pa.), 5 M sodium hydroxide (5.22 mL, 26.1 mmol) and THF (20 mL). The reaction mixture was stirred at room temperature for 2 d. After that time, the mixture was diluted with water (30 mL) and extracted with EtOAc (2×60 mL). The organic extracts were washed with saturated NaCl (30 mL) and dried over Na2SO4. The solution was filtered and concentrated in vacuo to give the crude material as light-yellow oil. Purification by silica gel chromatography, eluting with 20% EtOAc in hexanes gave ethyl N-(diphenylmethylidene)-3-methoxyphenylalaninate (1.56 g).

reactant | 3-methoxybenzyl bromide | 5.22 mmol, 0.73 mL | COC=1C=C(CBr)C=CC1 | C8H9BrO
reactant | ethyl N-(diphenylmethylene)glycinate | 5.22 mmol, 1.40 g | C1(=CC=CC=C1)C(=NCC(=O)OCC)C1=CC=CC=C1 | C17H17NO2
reactant | sodium hydroxide | 26.1 mmol, 5 M, 5.22 mL | [OH-].[Na+]
reactant | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 30 mL | O | H2O
product | ethyl N-(diphenylmethylidene)-3-methoxyphenylalaninate | 1.56 g | C1(=CC=CC=C1)C(=N[C@@H](CC1=CC(=CC=C1)OC)C(=O)OCC)C1=CC=CC=C1 | C25H25NO3
